US08314112B2
2-(3-Bromo-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 2-(3-bromophenyl)pyrrolidine hydrochloride (ChemCollect GmbH, Remscheid, Germany) (1 eq, 1.89 mmol, 500 mg) in THF (10 ml) at 0° C. is added LHMDS (1 M in THF, 2.2 eq, 4.1 mmol, 4.1 ml). The cooling bath is removed and the mixture is stirred for 10 min before adding a solution of Boc2O (1 eq, 1.89 mmol, 411 mg) in THF (5 ml). The resulting mixture is stirred for additional 2 h, then aqueous HCl (1 M) is added and the mixture is extracted with EtOAc. The organic layer is dried with MgSO4, filtered, and concentrated in vacuo giving the title compound; [M+H]+=326/328.

reactant | 2-(3-bromophenyl)pyrrolidine hydrochloride | 1.89 mmol, 500 mg, 1 eq | Cl.BrC=1C=C(C=CC1)C1NCCC1
reactant | LHMDS | 4.1 mmol, 1 M, 4.1 ml, 2.2 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Boc2O | 1.89 mmol, 411 mg, 1 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(3-Bromo-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C1=CC(=CC=C1)Br | C15H20BrNO2
